US04052362
To 50 ml of N-dimethylacetamide were added 2.30 g of cinnamoyl chloride and 4.04 g of β-(3,5-di-tert-butyl-4-hydroxyphenyl)propionylhydrazine, and the resulting mixture was stirred at 30° - 35° C for 3 hours. The reaction mixture was then poured into 2 liters of water, and the produced precipitate was collected by filtration and washed with water. The so obtained precipitate was then recrystallized twice from a mixture of ethanol (first grade) and water (1 : 1, volume ratio) and dried under reduced pressure to yield 4.1 g of N-cinnamoyl-N'-{β-(3,5-di-tert-butyl-4-hydroxyphenyl)propionyl}-hydrazine as white crystals, m.p. 224.5° - 225.0° C. Analysis for C26H34N2O8 : C, 73.90%, H, 8.11%; N, 6.63%, Found: C, 73.91%; H, 7.90%; N, 6.51%.

reactant | cinnamoyl chloride | 2.30 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | β-(3,5-di-tert-butyl-4-hydroxyphenyl)propionylhydrazine | 4.04 g | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)CCC(=O)NN | C17H28N2O2
solvent | water | 2 liters | O | H2O
product | N-cinnamoyl-N'-{β-(3,5-di-tert-butyl-4-hydroxyphenyl)propionyl}-hydrazine | 4.1 g | C(C=CC1=CC=CC=C1)(=O)NNC(CCC1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C26H34N2O3
